US04683296
Allyl diazoacetoacetate
To a solution of allyl acetoacetate (226.5 g, 1.594 mole) in 3 l acetonitrile and triethylamine (243.4 ml, 1.753 mole), there was added p-toluenesulfonyl azide (345.3 ml, 1.753 mole) over a 1 hour period while keeping the temperature at ~20° C. with a cooling bath. The reaction mixture became yellow. The reaction mixture was then stirred at room temperature under a nitrogen atmosphere for 18 hours. The mixture was concentrated on a rotary evaporator. The residue was dissolved in diethyl ether (2.6 l) and 1M aqueous KOH (800 ml). The organic phase was washed five times with 1M KOH (500 ml) and once with brine (400 ml). After drying over MgSO4 and concentration on a rotary evaporator (temp. ≤30° C.), there was obtained 260.2 g (97%) of the title product.

reactant | allyl acetoacetate | 1.594 mole, 226.5 g | C(CC(=O)C)(=O)OCC=C | C7H10O3
reactant | triethylamine | 1.753 mole, 243.4 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl azide | 1.753 mole, 345.3 ml | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | acetonitrile | 3 l | C(C)#N | C2H3N
product | Allyl diazoacetoacetate | 260.2 g, 97% | [N+](=[N-])=CC(CC(=O)OCC=C)=O | C7H8N2O3
